US07875618B2
2-(2-Cyclohexyl-4-methyl-imidazol-1-yl)-4-fluoro-aniline
3.03 g 2-(2-Cyclohexyl-4-methyl-imidazol-1-yl)-4-fluoro-nitrobenzene (10 mmol) were dissolved in 50 ml ethanol, 0.5 g Raney-Nickel was added and the mixture was heated 5 hours in a closed vessel at 40-45° C. and 10 bar hydrogen. After cooling the catalyst was removed and the filtrate was distilled to dryness.

reactant | 2-(2-Cyclohexyl-4-methyl-imidazol-1-yl)-4-fluoro-nitrobenzene | 10 mmol, 3.03 g | C1(CCCCC1)C=1N(C=C(N1)C)C1=C(C=CC(=C1)F)[N+](=O)[O-] | C16H18FN3O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Raney-Nickel | 0.5 g | [Ni] | Ni
product | 2-(2-Cyclohexyl-4-methyl-imidazol-1-yl)-4-fluoro-aniline | C1(CCCCC1)C=1N(C=C(N1)C)C1=C(N)C=CC(=C1)F | C16H20FN3
